US08034812B2
Production of tert-butyl (chloroacetyl)carbamate
To a suspension of 2-chloroacetamide (25 g, 267 mmol) in 1,2-dichloroethane (125 mL) was added dropwise oxalyl chloride (28 mL, 321 mmol) at 0° C. After heating under reflux for 3 hr, the mixture was cooled to 0° C., tert-butyl alcohol/1,2-dichloroethane (75 mL, 1/1) was added to the mixture, and the mixture was stirred for 20 min. Saturated aqueous sodium hydrogencarbonate solution was added to the reaction mixture, and the mixture was extracted with 1,2-dichloroethane. After washing with saturated aqueous sodium hydrogencarbonate solution and water, the extract was dried over anhydrous magnesium sulfate and filtrated. The solvent was evaporated under reduced pressure, and the residue was recrystallized from cyclohexane to give the title compound (25.6 g, 49%) as white crystals.

reactant | 2-chloroacetamide | 267 mmol, 25 g | ClCC(=O)N | C2H4ClNO
reactant | oxalyl chloride | 321 mmol, 28 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | tert-butyl alcohol 1,2-dichloroethane | 75 mL | C(C)(C)(C)O.ClCCCl
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | 1,2-dichloroethane | 125 mL | ClCCCl | C2H4Cl2
product | tert-butyl (chloroacetyl)carbamate | 25.6 g, 49% | ClCC(=O)NC(OC(C)(C)C)=O | C7H12ClNO3
